### ISSUE TITLE
Incorrect transparency setting inside of simp tactic

### ISSUE THREAD

**Issue by lecopivo** [leanprover/lean4#790]
I believe that there is a bug in the transparency setting inside of `simp` tactic, causing `isDefEq` returning `false` even though it should return `true`. 

More concretely, the function `rewriteCtorEq?` sets transparency settings `withReducibleAndInstances` that then causes `whnf` not correctly reducing some typeclass instances inside of `isDefEq` in `synthesizeArgs`

Here is mwe, `simp` fails in the last example, but I would expect it to succeed.
```
class Vec (X : Type) extends Add X, Inhabited X

class Vec' (X : Type) extends Vec X

def differential {X Y : Type} [Vec X] [Vec Y] (f : X → Y) (x dx : X) : Y := f dx

@[simp]
theorem differential_of_linear {X Y : Type} [Vec X] [Vec Y] (f : X → Y) (x dx : X)
        : differential f x dx = f dx := by simp[differential]

example {X Y : Type} [Vec X] [Vec Y] (f : X → Y) (x dx : X)
        : differential f x dx = f dx := by simp

instance : Vec Nat := ⟨⟩
instance : Vec' Nat := ⟨⟩

set_option trace.Meta.Tactic.simp true
example {Y : Type} [Vec Y] (f : Nat → Y) (x dx : Nat)
        : @differential _ _ Vec'.toVec _ f x dx = f dx :=
  by
    simp
```

The same [example works fine in Lean 3](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/Trouble.20with.20simp.20-.20.20failed.20to.20assign.20instance/near/261140645).

It can be [fixed](https://github.com/lecopivo/lean4/commit/dd1f50a19b4121c1c3eacc9beef7b9943c53f13d) by simply changing the transparency settings just before calling `isDefEq`. However, I'm not sure it this is the best places to put the fix. Maybe, the result of `isDefEq` should not depend on transparency settings, but I'm not sure about that.

**Comment by leodemoura** [comment]
Thanks for raising this issue.

> Maybe, the result of isDefEq should not depend on transparency settings, but I'm not sure about that.

The transparency setting feature has been added to control the cost of `isDefEq` tests. 

It is sufficient to reduce `@reducible` and instances to fix the problem. I will push a fix.
